US06900336B2
A methanol solution (15 mL) of 3-benzoyl-benzoic acid (2 g, 8.84 mmol) and methanesulfonic acid (0.115 mL, 1.77 mmol) was heated at 65° C. for 20 h and then cooled to room temperature. To this solution was added trimethyl orthoformate (1.45 mL, 13.26 mmol) and stirring continued for 24 h. The reaction solution was then diluted with ethyl acetate and washed with NaHCO3. The organic layer was dried over MgSO4, filtered and concentrated. Flash chromatography (20 hexanes: 1 ethyl acetate +0.25% triethyl amine) provided 3-(dimethoxy-phenyl-methyl)-benzoic acid methyl ester (951 mg) as an oil.

reactant | methanol | 15 mL | CO | CH4O
reactant | 3-benzoyl-benzoic acid | 8.84 mmol, 2 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1 | C14H10O3
reactant | methanesulfonic acid | 1.77 mmol, 0.115 mL | CS(=O)(=O)O | CH4O3S
reactant | trimethyl orthoformate | 13.26 mmol, 1.45 mL | C(OC)(OC)OC | C4H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(dimethoxy-phenyl-methyl)-benzoic acid methyl ester | 951 mg | COC(C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC)=O | C17H18O4
